2181-02-27 07:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2181-2-26**] 12:17 PM
 ULTRASOUND - At [**2181-2-26**] 04:12 PM
   -seen by [**Last Name (un) 303**], recommended 20 units 75/25 tonight and 20 NPH in am
   (while NPO), then her home regimen is 42 (75/25)units qam, 20units qpm
   plus sliding scale
   -put out 1.6L for 20mg IV lasix once
   -hep drip dc
   -NPO for cath in am, getting precath hydration
   -echo:Mild symmetric left ventricular hypertrophy with mild hypokinesis
   of the mid to distal inferolateral wall. Diastolic dysfunction. Mild to
   moderate mitral regurgitation. Moderate pulmonary artery systolic
   hypertension.
   -foley inserted
   -got baseline LFTs, AST 91
   S: Denies CP, SOB, lightheadedness, palpitations. Had some cold sweats
   earlier this am with glucose 59.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2181-2-26**] 08:21 PM
   Dextrose 50% - [**2181-2-27**] 06:16 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-2-27**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.7
C (98
   HR: 48 (48 - 79) bpm
   BP: 137/51(72) {122/47(68) - 178/94(98)} mmHg
   RR: 16 (10 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 57 Inch
             Total In:
                                                                  1,225 mL
                                                                    144 mL
   PO:
                                                                    860 mL
             TF:
   IVF:
                                                                    365 mL
                                                                    119 mL
   Blood products:
   Total out:
                                                                  2,720 mL
                                                                    760 mL
   Urine:
                                                                  2,720 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,495 mL
                                                                   -616 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///30/
   Physical Examination
   General: Alert and awake, NAD
   CV:
   Labs / Radiology
   276 K/uL
   9.0 g/dL
   66 mg/dL
   1.5 mg/dL
   30 mEq/L
   4.0 mEq/L
   29 mg/dL
   100 mEq/L
   137 mEq/L
   26.9 %
   6.0 K/uL
        [image002.jpg]
                             [**2181-2-25**]  10:38 PM
                             [**2181-2-26**]  04:47 AM
                             [**2181-2-26**]  06:07 AM
                             [**2181-2-26**]  07:47 PM
                             [**2181-2-27**]  04:21 AM
   WBC
   5.9
   6.6
   6.0
   Hct
   26.7
   27.4
   26.9
   Plt
   261
   277
   276
   Cr
   1.4
   1.4
   1.6
   1.5
   TropT
   1.52
   1.45
   Glucose
   [**Telephone/Fax (3) 6077**]99
   66
   Other labs: PT / PTT / INR:12.5/23.1/1.1, CK / CKMB /
   Troponin-T:428/20/1.45, ALT / AST:29/91, Alk Phos / T Bili:135/0.4,
   Ca++:8.9 mg/dL, Mg++:2.2 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   Patient is an 83 y/o F with HTN, DM2 on insulin, CKI, no prior CAD hx
   who presents with L shoulder pain and EKG changes in setting of
   hypertensive emergency.
   .
   #. CAD: Pt presenting with EKG changes and troponin leak in setting of
   hypertensive emergency with L shoulder pain, concern for ischemic
   etiology but most likely [**1-29**] demand in setting of hypertension. Chest
   pain now resolved after Morphine 2mg IV x 1, SL Nitro, and Labetalol
   gtt.
   - Repeat EKG
   - Monitor on telemetry
   - Trend cardiac enzymes till peaks
   - ASA 325 PO daily
   - Hold off on heparin gtt/ Plavix unless enzymes rise in setting of
   symptomatic ekg changes
   - Resume Metoprolol and Lisinopril
   - ECHO in am to evaluate baseline cardiac function
   - Consider stress vs. cath if clinical picture becomes more consistent
   with ACS
   - Risk stratification with A1C and lipid panel
   .
   # Hypertensive emergency:  Unclear precipitant. Pt does have hx of
   sensitivity to missing anti-hypertensive meds. Currently on labetalol
   gtt. Denies recent headaches, visual changes, decreased UOP, or other
   signs of end organ damage.
   - Continue Labetalol gtt to maintain goal BP 140-160, wean as tolerated
   while transitioning to home meds
   - Resume home Metoprolol and Lisinopril
   - Check urinalysis for signs of ATN and monitor Cr
   .
   # DM2: serum glucose 372 on admission. Pt on insulin at home. Last
   HbA1c on [**11-4**] elevated at 11.6. Pt reports compliance with insulin,
   but did self-titrate down insulin last week. Followed by Dr. [**Last Name (STitle) 6055**] at
   [**Hospital 303**] Clinic.
   - Continue home Humalog 75/25
   - FS Qachs, HISS PRN
   - Consider resuming home Metformin if Cr stable in am
   - HbA1c pending
   - Consider touching base with [**Last Name (un) 303**] if bs remain uncontrolled on
   current regimen
   .
   # CKI: Cr on admission 1.3, appears to be at baseline (was 1.3 in
   [**11-4**], and has been higher in the past.) - Monitor daily Cr
   - Check u/a for signs of ATN given hypertensive urgency
   - Consider resuming home Metformin for DM2 if Cr stable in am
   .
   # Hyperlipidemia: Pt has reported hx of hyperlipidemia, but is not on a
   lipid-lowering medication at home, and unclear what baseline lipid
   status is.
   - Check lipid profile, consider adding low-dose statin+
   .
   # Anemia: crit currently 32.1, at baseline (~32-33). No active signs of
   bleeding.
   - Monitor daily crits
   - Fe studies pending
   - Transfusion goal >21 (or >25 if clinical picture evolves into ACS)
   .
   #. Pump: No prior hx of ECHO per pt or in OMR. JVP elevated, and CXR
   shows mild bilateral pleural effusions, consistent with mild heart
   failure.
   - ECHO in am to eval baseline cardiac function
   .
   #. Rhythm: NSR with HR In 60s.
   - Monitor on telemetry
   .
   #. FEN: cardiac/diabetic diet, replete lytes PRN, no IVF for now
   .
   #. Access:  PIV
   .
   #. PPx:  heparin SC, no PPI indicated, bowel regimen
   .
   #. Code:  presumed FULL
   .
   # Contact: [**Name (NI) 6056**] [**Name (NI) 6057**], daughter [**Telephone/Fax (1) 6058**]
   .
   #. Dispo:  pending improvement of hypertension, weaning off labetalol
   gtt..
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2181-2-25**] 11:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2181-02-27 07:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2181-2-26**] 12:17 PM
 ULTRASOUND - At [**2181-2-26**] 04:12 PM
   -seen by [**Last Name (un) 303**], recommended 20 units 75/25 tonight and 20 NPH in am
   (while NPO), then her home regimen is 42 (75/25)units qam, 20units qpm
   plus sliding scale
   -put out 1.6L for 20mg IV lasix once
   -hep drip dc
   -NPO for cath in am, getting precath hydration
   -echo:Mild symmetric left ventricular hypertrophy with mild hypokinesis
   of the mid to distal inferolateral wall. Diastolic dysfunction. Mild to
   moderate mitral regurgitation. Moderate pulmonary artery systolic
   hypertension.
   -foley inserted
   -got baseline LFTs, AST 91
   S: Denies CP, SOB, lightheadedness, palpitations. Had some cold sweats
   earlier this am with glucose 59.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2181-2-26**] 08:21 PM
   Dextrose 50% - [**2181-2-27**] 06:16 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-2-27**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.7
C (98
   HR: 48 (48 - 79) bpm
   BP: 137/51(72) {122/47(68) - 178/94(98)} mmHg
   RR: 16 (10 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 57 Inch
             Total In:
                                                                  1,225 mL
                                                                    144 mL
   PO:
                                                                    860 mL
             TF:
   IVF:
                                                                    365 mL
                                                                    119 mL
   Blood products:
   Total out:
                                                                  2,720 mL
                                                                    760 mL
   Urine:
                                                                  2,720 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,495 mL
                                                                   -616 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///30/
   Physical Examination
   Gen: WDWN middle aged female in NAD.
   Neck: Supple with no appreciable JVD.
   CV: Irreg rhythm, normal rate. No m/r/g.
   Chest: Resp were unlabored, no accessory muscle use. Crackles [**12-30**] way
   up bilat.
   Abd: NABS. Soft, NTND.
   Ext: WWP. 1+ LE edema.
   Labs / Radiology
   276 K/uL
   9.0 g/dL
   66 mg/dL
   1.5 mg/dL
   30 mEq/L
   4.0 mEq/L
   29 mg/dL
   100 mEq/L
   137 mEq/L
   26.9 %
   6.0 K/uL
        [image002.jpg]
                             [**2181-2-25**]  10:38 PM
                             [**2181-2-26**]  04:47 AM
                             [**2181-2-26**]  06:07 AM
                             [**2181-2-26**]  07:47 PM
                             [**2181-2-27**]  04:21 AM
   WBC
   5.9
   6.6
   6.0
   Hct
   26.7
   27.4
   26.9
   Plt
   261
   277
   276
   Cr
   1.4
   1.4
   1.6
   1.5
   TropT
   1.52
   1.45
   Glucose
   [**Telephone/Fax (3) 6077**]99
   66
   Other labs: PT / PTT / INR:12.5/23.1/1.1, CK / CKMB /
   Troponin-T:428/20/1.45, ALT / AST:29/91, Alk Phos / T Bili:135/0.4,
   Ca++:8.9 mg/dL, Mg++:2.2 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   Patient is an 83 y/o F with HTN, DM2 on insulin, CKI, no prior CAD hx
   who presents with L shoulder pain and EKG changes in setting of
   hypertensive emergency.
   .
   #. CAD: Pt presenting with EKG changes and troponin leak in setting of
   hypertensive emergency with L shoulder pain, concern for ischemic
   etiology but most likely [**1-29**] demand in setting of hypertension. Chest
   pain now resolved after Morphine 2mg IV x 1, SL Nitro, and Labetalol
   gtt.
   - Repeat EKG
   - Monitor on telemetry
   - Trend cardiac enzymes till peaks
   - ASA 325 PO daily
   - Hold off on heparin gtt/ Plavix unless enzymes rise in setting of
   symptomatic ekg changes
   - Resume Metoprolol and Lisinopril
   - ECHO in am to evaluate baseline cardiac function
   - Consider stress vs. cath if clinical picture becomes more consistent
   with ACS
   - Risk stratification with A1C and lipid panel
   .
   # Hypertensive emergency:  Unclear precipitant. Pt does have hx of
   sensitivity to missing anti-hypertensive meds. Currently on labetalol
   gtt. Denies recent headaches, visual changes, decreased UOP, or other
   signs of end organ damage.
   - Continue Labetalol gtt to maintain goal BP 140-160, wean as tolerated
   while transitioning to home meds
   - Resume home Metoprolol and Lisinopril
   - Check urinalysis for signs of ATN and monitor Cr
   .
   # DM2: serum glucose 372 on admission. Pt on insulin at home. Last
   HbA1c on [**11-4**] elevated at 11.6. Pt reports compliance with insulin,
   but did self-titrate down insulin last week. Followed by Dr. [**Last Name (STitle) 6055**] at
   [**Hospital 303**] Clinic.
   - Continue home Humalog 75/25
   - FS Qachs, HISS PRN
   - Consider resuming home Metformin if Cr stable in am
   - HbA1c pending
   - Consider touching base with [**Last Name (un) 303**] if bs remain uncontrolled on
   current regimen
   .
   # CKI: Cr on admission 1.3, appears to be at baseline (was 1.3 in
   [**11-4**], and has been higher in the past.) - Monitor daily Cr
   - Check u/a for signs of ATN given hypertensive urgency
   - Consider resuming home Metformin for DM2 if Cr stable in am
   .
   # Hyperlipidemia: Pt has reported hx of hyperlipidemia, but is not on a
   lipid-lowering medication at home, and unclear what baseline lipid
   status is.
   - Check lipid profile, consider adding low-dose statin+
   .
   # Anemia: crit currently 32.1, at baseline (~32-33). No active signs of
   bleeding.
   - Monitor daily crits
   - Fe studies pending
   - Transfusion goal >21 (or >25 if clinical picture evolves into ACS)
   .
   #. Pump: No prior hx of ECHO per pt or in OMR. JVP elevated, and CXR
   shows mild bilateral pleural effusions, consistent with mild heart
   failure.
   - ECHO in am to eval baseline cardiac function
   .
   #. Rhythm: NSR with HR In 60s.
   - Monitor on telemetry
   .
   #. FEN: cardiac/diabetic diet, replete lytes PRN, no IVF for now
   .
   #. Access:  PIV
   .
   #. PPx:  heparin SC, no PPI indicated, bowel regimen
   .
   #. Code:  presumed FULL
   .
   # Contact: [**Name (NI) 6056**] [**Name (NI) 6057**], daughter [**Telephone/Fax (1) 6058**]
   .
   #. Dispo:  pending improvement of hypertension, weaning off labetalol
   gtt..
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2181-2-25**] 11:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2181-02-27 07:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2181-2-26**] 12:17 PM
 ULTRASOUND - At [**2181-2-26**] 04:12 PM
   -seen by [**Last Name (un) 303**], recommended 20 units 75/25 tonight and 20 NPH in am
   (while NPO), then her home regimen is 42 (75/25)units qam, 20units qpm
   plus sliding scale
   -put out 1.6L for 20mg IV lasix once
   -hep drip dc
   -NPO for cath in am, getting precath hydration
   -echo:Mild symmetric left ventricular hypertrophy with mild hypokinesis
   of the mid to distal inferolateral wall. Diastolic dysfunction. Mild to
   moderate mitral regurgitation. Moderate pulmonary artery systolic
   hypertension.
   -foley inserted
   -got baseline LFTs, AST 91
   S: Denies CP, SOB, lightheadedness, palpitations. Had some cold sweats
   earlier this am with glucose 59.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2181-2-26**] 08:21 PM
   Dextrose 50% - [**2181-2-27**] 06:16 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-2-27**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.7
C (98
   HR: 48 (48 - 79) bpm
   BP: 137/51(72) {122/47(68) - 178/94(98)} mmHg
   RR: 16 (10 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 57 Inch
             Total In:
                                                                  1,225 mL
                                                                    144 mL
   PO:
                                                                    860 mL
             TF:
   IVF:
                                                                    365 mL
                                                                    119 mL
   Blood products:
   Total out:
                                                                  2,720 mL
                                                                    760 mL
   Urine:
                                                                  2,720 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,495 mL
                                                                   -616 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///30/
   Physical Examination
   Gen: WDWN middle aged female in NAD.
   Neck: Supple with no appreciable JVD.
   CV: Irreg rhythm, normal rate. No m/r/g.
   Chest: Resp were unlabored, no accessory muscle use. Crackles [**12-30**] way
   up bilat.
   Abd: NABS. Soft, NTND.
   Ext: WWP. 1+ LE edema.
   Labs / Radiology
   276 K/uL
   9.0 g/dL
   66 mg/dL
   1.5 mg/dL
   30 mEq/L
   4.0 mEq/L
   29 mg/dL
   100 mEq/L
   137 mEq/L
   26.9 %
   6.0 K/uL
        [image002.jpg]
                             [**2181-2-25**]  10:38 PM
                             [**2181-2-26**]  04:47 AM
                             [**2181-2-26**]  06:07 AM
                             [**2181-2-26**]  07:47 PM
                             [**2181-2-27**]  04:21 AM
   WBC
   5.9
   6.6
   6.0
   Hct
   26.7
   27.4
   26.9
   Plt
   261
   277
   276
   Cr
   1.4
   1.4
   1.6
   1.5
   TropT
   1.52
   1.45
   Glucose
   [**Telephone/Fax (3) 6077**]99
   66
   Other labs: PT / PTT / INR:12.5/23.1/1.1, CK / CKMB /
   Troponin-T:428/20/1.45, ALT / AST:29/91, Alk Phos / T Bili:135/0.4,
   Ca++:8.9 mg/dL, Mg++:2.2 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   Patient is an 83 y/o F with HTN, DM2 on insulin, CKI, no prior CAD hx
   who presents with L shoulder pain and EKG changes in setting of
   hypertensive emergency.
   .
   #. CAD: Pt presenting with EKG changes and troponin leak in setting of
   hypertensive emergency with L shoulder pain, concern for ischemic
   etiology but most likely [**1-29**] demand in setting of hypertension. Chest
   pain resolved. Repeat EKG showed decreased ST deviations with
   resolution of CP.
   - Monitor on telemetry
   - Trend cardiac enzymes till peaks
   - ASA 325 PO daily
   - Hold off on heparin gtt/ Plavix unless enzymes rise in setting of
   symptomatic ekg changes
   - Resume Metoprolol and Lisinopril
   - ECHO in am to evaluate baseline cardiac function
   - Consider stress vs. cath if clinical picture becomes more consistent
   with ACS
   - Risk stratification with A1C and lipid panel
   .
   # Hypertensive emergency:  Unclear precipitant. Pt does have hx of
   sensitivity to missing anti-hypertensive meds. Currently on labetalol
   gtt. Denies recent headaches, visual changes, decreased UOP, or other
   signs of end organ damage.
   - Continue Labetalol gtt to maintain goal BP 140-160, wean as tolerated
   while transitioning to home meds
   - Resume home Metoprolol and Lisinopril
   - Check urinalysis for signs of ATN and monitor Cr
   .
   # DM2: serum glucose 372 on admission. Pt on insulin at home. Last
   HbA1c on [**11-4**] elevated at 11.6. Pt reports compliance with insulin,
   but did self-titrate down insulin last week. Followed by Dr. [**Last Name (STitle) 6055**] at
   [**Hospital 303**] Clinic.
   - Continue home Humalog 75/25
   - FS Qachs, HISS PRN
   - Consider resuming home Metformin if Cr stable in am
   - HbA1c pending
   - Consider touching base with [**Last Name (un) 303**] if bs remain uncontrolled on
   current regimen
   .
   # CKI: Cr on admission 1.3, appears to be at baseline (was 1.3 in
   [**11-4**], and has been higher in the past.) - Monitor daily Cr
   - Check u/a for signs of ATN given hypertensive urgency
   - Consider resuming home Metformin for DM2 if Cr stable in am
   .
   # Hyperlipidemia: Pt has reported hx of hyperlipidemia, but is not on a
   lipid-lowering medication at home, and unclear what baseline lipid
   status is.
   - Check lipid profile, consider adding low-dose statin+
   .
   # Anemia: crit currently 32.1, at baseline (~32-33). No active signs of
   bleeding.
   - Monitor daily crits
   - Fe studies pending
   - Transfusion goal >21 (or >25 if clinical picture evolves into ACS)
   .
   #. Pump: No prior hx of ECHO per pt or in OMR. JVP elevated, and CXR
   shows mild bilateral pleural effusions, consistent with mild heart
   failure.
   - ECHO in am to eval baseline cardiac function
   .
   #. Rhythm: NSR with HR In 60s.
   - Monitor on telemetry
   .
   #. FEN: cardiac/diabetic diet, replete lytes PRN, no IVF for now
   .
   #. Access:  PIV
   .
   #. PPx:  heparin SC, no PPI indicated, bowel regimen
   .
   #. Code:  presumed FULL
   .
   # Contact: [**Name (NI) 6056**] [**Name (NI) 6057**], daughter [**Telephone/Fax (1) 6058**]
   .
   #. Dispo:  pending improvement of hypertension, weaning off labetalol
   gtt..
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2181-2-25**] 11:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2181-02-27 07:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2181-2-26**] 12:17 PM
 ULTRASOUND - At [**2181-2-26**] 04:12 PM
   -seen by [**Last Name (un) 303**], recommended 20 units 75/25 tonight and 20 NPH in am
   (while NPO), then her home regimen is 42 (75/25)units qam, 20units qpm
   plus sliding scale
   -put out 1.6L for 20mg IV lasix once
   -hep drip dc
   -NPO for cath in am, getting precath hydration
   -echo:Mild symmetric left ventricular hypertrophy with mild hypokinesis
   of the mid to distal inferolateral wall. Diastolic dysfunction. Mild to
   moderate mitral regurgitation. Moderate pulmonary artery systolic
   hypertension.
   -foley inserted
   -got baseline LFTs, AST 91
   S: Denies CP, SOB, lightheadedness, palpitations. Had some cold sweats
   earlier this am with glucose 59.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2181-2-26**] 08:21 PM
   Dextrose 50% - [**2181-2-27**] 06:16 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-2-27**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.7
C (98
   HR: 48 (48 - 79) bpm
   BP: 137/51(72) {122/47(68) - 178/94(98)} mmHg
   RR: 16 (10 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 57 Inch
             Total In:
                                                                  1,225 mL
                                                                    144 mL
   PO:
                                                                    860 mL
             TF:
   IVF:
                                                                    365 mL
                                                                    119 mL
   Blood products:
   Total out:
                                                                  2,720 mL
                                                                    760 mL
   Urine:
                                                                  2,720 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,495 mL
                                                                   -616 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///30/
   Physical Examination
   Gen: WDWN middle aged female in NAD.
   Neck: Supple with no appreciable JVD.
   CV: Irreg rhythm, normal rate. No m/r/g.
   Chest: Resp were unlabored, no accessory muscle use. Crackles [**12-30**] way
   up bilat.
   Abd: NABS. Soft, NTND.
   Ext: WWP. 1+ LE edema.
   Labs / Radiology
   276 K/uL
   9.0 g/dL
   66 mg/dL
   1.5 mg/dL
   30 mEq/L
   4.0 mEq/L
   29 mg/dL
   100 mEq/L
   137 mEq/L
   26.9 %
   6.0 K/uL
        [image002.jpg]
                             [**2181-2-25**]  10:38 PM
                             [**2181-2-26**]  04:47 AM
                             [**2181-2-26**]  06:07 AM
                             [**2181-2-26**]  07:47 PM
                             [**2181-2-27**]  04:21 AM
   WBC
   5.9
   6.6
   6.0
   Hct
   26.7
   27.4
   26.9
   Plt
   261
   277
   276
   Cr
   1.4
   1.4
   1.6
   1.5
   TropT
   1.52
   1.45
   Glucose
   [**Telephone/Fax (3) 6077**]99
   66
   Other labs: PT / PTT / INR:12.5/23.1/1.1, CK / CKMB /
   Troponin-T:428/20/1.45, ALT / AST:29/91, Alk Phos / T Bili:135/0.4,
   Ca++:8.9 mg/dL, Mg++:2.2 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   Patient is an 83 y/o F with HTN, DM2 on insulin, CKI, no prior CAD hx
   who presents with L shoulder pain and EKG changes in setting of
   hypertensive emergency.
   .
   #. CAD: Pt presenting with EKG changes and troponin leak in setting of
   hypertensive emergency with L shoulder pain, concern for ischemic
   etiology but most likely [**1-29**] demand in setting of hypertension. Chest
   pain resolved. Repeat EKG showed decreased ST deviations with
   resolution of CP.
   - Cardiac cath this AM
   - Monitor on telemetry
   - Cont ASA 325 PO daily, clopidogrel
   - Cont Metoprolol and Lisinopril
   .
   # Hypertensive emergency:  Unclear precipitant. Pt does have hx of
   sensitivity to missing anti-hypertensive meds. Currently on labetalol
   gtt. Denies recent headaches, visual changes, decreased UOP, or other
   signs of end organ damage.
   - Continue Labetalol gtt to maintain goal BP 140-160, wean as tolerated
   while transitioning to home meds
   - Resume home Metoprolol and Lisinopril
   - Check urinalysis for signs of ATN and monitor Cr
   .
   # DM2: serum glucose 372 on admission. Pt on insulin at home. Last
   HbA1c on [**11-4**] elevated at 11.6. Pt reports compliance with insulin,
   but did self-titrate down insulin last week. Followed by Dr. [**Last Name (STitle) 6055**] at
   [**Hospital 303**] Clinic.
   - Continue home Humalog 75/25
   - FS Qachs, HISS PRN
   - Consider resuming home Metformin if Cr stable in am
   - HbA1c pending
   - Consider touching base with [**Last Name (un) 303**] if bs remain uncontrolled on
   current regimen
   .
   # CKI: Cr on admission 1.3, appears to be at baseline (was 1.3 in
   [**11-4**], and has been higher in the past.) - Monitor daily Cr
   - Check u/a for signs of ATN given hypertensive urgency
   - Consider resuming home Metformin for DM2 if Cr stable in am
   .
   # Hyperlipidemia: Pt has reported hx of hyperlipidemia, but is not on a
   lipid-lowering medication at home, and unclear what baseline lipid
   status is.
   - Check lipid profile, consider adding low-dose statin+
   .
   # Anemia: crit currently 32.1, at baseline (~32-33). No active signs of
   bleeding.
   - Monitor daily crits
   - Fe studies pending
   - Transfusion goal >21 (or >25 if clinical picture evolves into ACS)
   .
   #. Pump: No prior hx of ECHO per pt or in OMR. JVP elevated, and CXR
   shows mild bilateral pleural effusions, consistent with mild heart
   failure.
   - ECHO in am to eval baseline cardiac function
   .
   #. Rhythm: NSR with HR In 60s.
   - Monitor on telemetry
   .
   #. FEN: cardiac/diabetic diet, replete lytes PRN, no IVF for now
   .
   #. Access:  PIV
   .
   #. PPx:  heparin SC, no PPI indicated, bowel regimen
   .
   #. Code:  presumed FULL
   .
   # Contact: [**Name (NI) 6056**] [**Name (NI) 6057**], daughter [**Telephone/Fax (1) 6058**]
   .
   #. Dispo:  pending improvement of hypertension, weaning off labetalol
   gtt..
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2181-2-25**] 11:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2181-02-27 07:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2181-2-26**] 12:17 PM
 ULTRASOUND - At [**2181-2-26**] 04:12 PM
   -seen by [**Last Name (un) 303**], recommended 20 units 75/25 tonight and 20 NPH in am
   (while NPO), then her home regimen is 42 (75/25)units qam, 20units qpm
   plus sliding scale
   -put out 1.6L for 20mg IV lasix once
   -hep drip dc
   -NPO for cath in am, getting precath hydration
   -echo:Mild symmetric left ventricular hypertrophy with mild hypokinesis
   of the mid to distal inferolateral wall. Diastolic dysfunction. Mild to
   moderate mitral regurgitation. Moderate pulmonary artery systolic
   hypertension.
   -foley inserted
   -got baseline LFTs, AST 91
   S: Denies CP, SOB, lightheadedness, palpitations. Had some cold sweats
   earlier this am with glucose 59.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2181-2-26**] 08:21 PM
   Dextrose 50% - [**2181-2-27**] 06:16 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-2-27**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.7
C (98
   HR: 48 (48 - 79) bpm
   BP: 137/51(72) {122/47(68) - 178/94(98)} mmHg
   RR: 16 (10 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 57 Inch
             Total In:
                                                                  1,225 mL
                                                                    144 mL
   PO:
                                                                    860 mL
             TF:
   IVF:
                                                                    365 mL
                                                                    119 mL
   Blood products:
   Total out:
                                                                  2,720 mL
                                                                    760 mL
   Urine:
                                                                  2,720 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,495 mL
                                                                   -616 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///30/
   Physical Examination
   Gen: WDWN middle aged female in NAD.
   Neck: Supple with no appreciable JVD.
   CV: Irreg rhythm, normal rate. No m/r/g.
   Chest: Resp were unlabored, no accessory muscle use. Crackles [**12-30**] way
   up bilat.
   Abd: NABS. Soft, NTND.
   Ext: WWP. 1+ LE edema.
   Labs / Radiology
   276 K/uL
   9.0 g/dL
   66 mg/dL
   1.5 mg/dL
   30 mEq/L
   4.0 mEq/L
   29 mg/dL
   100 mEq/L
   137 mEq/L
   26.9 %
   6.0 K/uL
        [image002.jpg]
                             [**2181-2-25**]  10:38 PM
                             [**2181-2-26**]  04:47 AM
                             [**2181-2-26**]  06:07 AM
                             [**2181-2-26**]  07:47 PM
                             [**2181-2-27**]  04:21 AM
   WBC
   5.9
   6.6
   6.0
   Hct
   26.7
   27.4
   26.9
   Plt
   261
   277
   276
   Cr
   1.4
   1.4
   1.6
   1.5
   TropT
   1.52
   1.45
   Glucose
   [**Telephone/Fax (3) 6077**]99
   66
   Other labs: PT / PTT / INR:12.5/23.1/1.1, CK / CKMB /
   Troponin-T:428/20/1.45, ALT / AST:29/91, Alk Phos / T Bili:135/0.4,
   Ca++:8.9 mg/dL, Mg++:2.2 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   Patient is an 83 y/o F with HTN, DM2 on insulin, CKI, no prior CAD hx
   who presents with L shoulder pain and EKG changes in setting of
   hypertensive emergency.
   .
   #. CAD: Pt presenting with EKG changes and troponin leak in setting of
   hypertensive emergency with L shoulder pain, concern for ischemic
   etiology but most likely [**1-29**] demand in setting of hypertension. Chest
   pain resolved. Repeat EKG showed decreased ST deviations with
   resolution of CP.
   - Cardiac cath this AM
   - Monitor on telemetry
   - Cont ASA 325 PO daily, clopidogrel
   - Cont Metoprolol and Lisinopril
   .
   # Hypertensive emergency:  Unclear precipitant, possibly from missing
   anti-hypertensive meds. BP now improved s/p labetalol gtt.
   - Cont home Metoprolol and Lisinopril
   - Check urinalysis for signs of ATN and monitor Cr
   .
   # DM2: serum glucose 372 on admission. Pt on insulin at home. Last
   HbA1c on [**11-4**] elevated at 11.6. Pt reports compliance with insulin,
   but did self-titrate down insulin last week. Followed by Dr. [**Last Name (STitle) 6055**] at
   [**Hospital 303**] Clinic.
   - Continue home Humalog 75/25
   - FS Qachs, HISS PRN
   - Consider resuming home Metformin if Cr stable in am
   - HbA1c pending
   - Consider touching base with [**Last Name (un) 303**] if bs remain uncontrolled on
   current regimen
   .
   # CKI: Cr on admission 1.3, appears to be at baseline (was 1.3 in
   [**11-4**], and has been higher in the past.) - Monitor daily Cr
   - Check u/a for signs of ATN given hypertensive urgency
   - Consider resuming home Metformin for DM2 if Cr stable in am
   .
   # Hyperlipidemia: Pt has reported hx of hyperlipidemia, but is not on a
   lipid-lowering medication at home, and unclear what baseline lipid
   status is.
   - Check lipid profile, consider adding low-dose statin+
   .
   # Anemia: crit currently 32.1, at baseline (~32-33). No active signs of
   bleeding.
   - Monitor daily crits
   - Fe studies pending
   - Transfusion goal >21 (or >25 if clinical picture evolves into ACS)
   .
   #. Pump: No prior hx of ECHO per pt or in OMR. JVP elevated, and CXR
   shows mild bilateral pleural effusions, consistent with mild heart
   failure.
   - ECHO in am to eval baseline cardiac function
   .
   #. Rhythm: NSR with HR In 60s.
   - Monitor on telemetry
   .
   #. FEN: cardiac/diabetic diet, replete lytes PRN, no IVF for now
   .
   #. Access:  PIV
   .
   #. PPx:  heparin SC, no PPI indicated, bowel regimen
   .
   #. Code:  presumed FULL
   .
   # Contact: [**Name (NI) 6056**] [**Name (NI) 6057**], daughter [**Telephone/Fax (1) 6058**]
   .
   #. Dispo:  pending improvement of hypertension, weaning off labetalol
   gtt..
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2181-2-25**] 11:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2181-02-27 07:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2181-2-26**] 12:17 PM
 ULTRASOUND - At [**2181-2-26**] 04:12 PM
   -seen by [**Last Name (un) 303**], recommended 20 units 75/25 tonight and 20 NPH in am
   (while NPO), then her home regimen is 42 (75/25)units qam, 20units qpm
   plus sliding scale
   -put out 1.6L for 20mg IV lasix once
   -hep drip dc
   -NPO for cath in am, getting precath hydration
   -echo:Mild symmetric left ventricular hypertrophy with mild hypokinesis
   of the mid to distal inferolateral wall. Diastolic dysfunction. Mild to
   moderate mitral regurgitation. Moderate pulmonary artery systolic
   hypertension.
   -foley inserted
   -got baseline LFTs, AST 91
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2181-2-26**] 08:21 PM
   Dextrose 50% - [**2181-2-27**] 06:16 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-2-27**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.7
C (98
   HR: 48 (48 - 79) bpm
   BP: 137/51(72) {122/47(68) - 178/94(98)} mmHg
   RR: 16 (10 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 57 Inch
             Total In:
                                                                  1,225 mL
                                                                    144 mL
   PO:
                                                                    860 mL
             TF:
   IVF:
                                                                    365 mL
                                                                    119 mL
   Blood products:
   Total out:
                                                                  2,720 mL
                                                                    760 mL
   Urine:
                                                                  2,720 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,495 mL
                                                                   -616 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///30/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   276 K/uL
   9.0 g/dL
   66 mg/dL
   1.5 mg/dL
   30 mEq/L
   4.0 mEq/L
   29 mg/dL
   100 mEq/L
   137 mEq/L
   26.9 %
   6.0 K/uL
        [image002.jpg]
                             [**2181-2-25**]  10:38 PM
                             [**2181-2-26**]  04:47 AM
                             [**2181-2-26**]  06:07 AM
                             [**2181-2-26**]  07:47 PM
                             [**2181-2-27**]  04:21 AM
   WBC
   5.9
   6.6
   6.0
   Hct
   26.7
   27.4
   26.9
   Plt
   261
   277
   276
   Cr
   1.4
   1.4
   1.6
   1.5
   TropT
   1.52
   1.45
   Glucose
   [**Telephone/Fax (3) 6077**]99
   66
   Other labs: PT / PTT / INR:12.5/23.1/1.1, CK / CKMB /
   Troponin-T:428/20/1.45, ALT / AST:29/91, Alk Phos / T Bili:135/0.4,
   Ca++:8.9 mg/dL, Mg++:2.2 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   Patient is an 83 y/o F with HTN, DM2 on insulin, CKI, no prior CAD hx
   who presents with L shoulder pain and EKG changes in setting of
   hypertensive emergency.
   .
   #. CAD: Pt presenting with EKG changes and troponin leak in setting of
   hypertensive emergency with L shoulder pain, concern for ischemic
   etiology but most likely [**1-29**] demand in setting of hypertension. Chest
   pain now resolved after Morphine 2mg IV x 1, SL Nitro, and Labetalol
   gtt.
   - Repeat EKG
   - Monitor on telemetry
   - Trend cardiac enzymes till peaks
   - ASA 325 PO daily
   - Hold off on heparin gtt/ Plavix unless enzymes rise in setting of
   symptomatic ekg changes
   - Resume Metoprolol and Lisinopril
   - ECHO in am to evaluate baseline cardiac function
   - Consider stress vs. cath if clinical picture becomes more consistent
   with ACS
   - Risk stratification with A1C and lipid panel
   .
   # Hypertensive emergency:  Unclear precipitant. Pt does have hx of
   sensitivity to missing anti-hypertensive meds. Currently on labetalol
   gtt. Denies recent headaches, visual changes, decreased UOP, or other
   signs of end organ damage.
   - Continue Labetalol gtt to maintain goal BP 140-160, wean as tolerated
   while transitioning to home meds
   - Resume home Metoprolol and Lisinopril
   - Check urinalysis for signs of ATN and monitor Cr
   .
   # DM2: serum glucose 372 on admission. Pt on insulin at home. Last
   HbA1c on [**11-4**] elevated at 11.6. Pt reports compliance with insulin,
   but did self-titrate down insulin last week. Followed by Dr. [**Last Name (STitle) 6055**] at
   [**Hospital 303**] Clinic.
   - Continue home Humalog 75/25
   - FS Qachs, HISS PRN
   - Consider resuming home Metformin if Cr stable in am
   - HbA1c pending
   - Consider touching base with [**Last Name (un) 303**] if bs remain uncontrolled on
   current regimen
   .
   # CKI: Cr on admission 1.3, appears to be at baseline (was 1.3 in
   [**11-4**], and has been higher in the past.) - Monitor daily Cr
   - Check u/a for signs of ATN given hypertensive urgency
   - Consider resuming home Metformin for DM2 if Cr stable in am
   .
   # Hyperlipidemia: Pt has reported hx of hyperlipidemia, but is not on a
   lipid-lowering medication at home, and unclear what baseline lipid
   status is.
   - Check lipid profile, consider adding low-dose statin+
   .
   # Anemia: crit currently 32.1, at baseline (~32-33). No active signs of
   bleeding.
   - Monitor daily crits
   - Fe studies pending
   - Transfusion goal >21 (or >25 if clinical picture evolves into ACS)
   .
   #. Pump: No prior hx of ECHO per pt or in OMR. JVP elevated, and CXR
   shows mild bilateral pleural effusions, consistent with mild heart
   failure.
   - ECHO in am to eval baseline cardiac function
   .
   #. Rhythm: NSR with HR In 60s.
   - Monitor on telemetry
   .
   #. FEN: cardiac/diabetic diet, replete lytes PRN, no IVF for now
   .
   #. Access:  PIV
   .
   #. PPx:  heparin SC, no PPI indicated, bowel regimen
   .
   #. Code:  presumed FULL
   .
   # Contact: [**Name (NI) 6056**] [**Name (NI) 6057**], daughter [**Telephone/Fax (1) 6058**]
   .
   #. Dispo:  pending improvement of hypertension, weaning off labetalol
   gtt..
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2181-2-25**] 11:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2181-02-27 07:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2181-2-26**] 12:17 PM
 ULTRASOUND - At [**2181-2-26**] 04:12 PM
   -seen by [**Last Name (un) 303**], recommended 20 units 75/25 tonight and 20 NPH in am
   (while NPO), then her home regimen is 42 (75/25)units qam, 20units qpm
   plus sliding scale
   -put out 1.6L for 20mg IV lasix once
   -hep drip dc
   -NPO for cath in am, getting precath hydration
   -echo:Mild symmetric left ventricular hypertrophy with mild hypokinesis
   of the mid to distal inferolateral wall. Diastolic dysfunction. Mild to
   moderate mitral regurgitation. Moderate pulmonary artery systolic
   hypertension.
   -foley inserted
   -got baseline LFTs, AST 91
   S: Denies CP, SOB, lightheadedness, palpitations. Had some cold sweats
   earlier this am with glucose 59.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2181-2-26**] 08:21 PM
   Dextrose 50% - [**2181-2-27**] 06:16 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-2-27**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.7
C (98
   HR: 48 (48 - 79) bpm
   BP: 137/51(72) {122/47(68) - 178/94(98)} mmHg
   RR: 16 (10 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 57 Inch
             Total In:
                                                                  1,225 mL
                                                                    144 mL
   PO:
                                                                    860 mL
             TF:
   IVF:
                                                                    365 mL
                                                                    119 mL
   Blood products:
   Total out:
                                                                  2,720 mL
                                                                    760 mL
   Urine:
                                                                  2,720 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,495 mL
                                                                   -616 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///30/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   276 K/uL
   9.0 g/dL
   66 mg/dL
   1.5 mg/dL
   30 mEq/L
   4.0 mEq/L
   29 mg/dL
   100 mEq/L
   137 mEq/L
   26.9 %
   6.0 K/uL
        [image002.jpg]
                             [**2181-2-25**]  10:38 PM
                             [**2181-2-26**]  04:47 AM
                             [**2181-2-26**]  06:07 AM
                             [**2181-2-26**]  07:47 PM
                             [**2181-2-27**]  04:21 AM
   WBC
   5.9
   6.6
   6.0
   Hct
   26.7
   27.4
   26.9
   Plt
   261
   277
   276
   Cr
   1.4
   1.4
   1.6
   1.5
   TropT
   1.52
   1.45
   Glucose
   [**Telephone/Fax (3) 6077**]99
   66
   Other labs: PT / PTT / INR:12.5/23.1/1.1, CK / CKMB /
   Troponin-T:428/20/1.45, ALT / AST:29/91, Alk Phos / T Bili:135/0.4,
   Ca++:8.9 mg/dL, Mg++:2.2 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   Patient is an 83 y/o F with HTN, DM2 on insulin, CKI, no prior CAD hx
   who presents with L shoulder pain and EKG changes in setting of
   hypertensive emergency.
   .
   #. CAD: Pt presenting with EKG changes and troponin leak in setting of
   hypertensive emergency with L shoulder pain, concern for ischemic
   etiology but most likely [**1-29**] demand in setting of hypertension. Chest
   pain now resolved after Morphine 2mg IV x 1, SL Nitro, and Labetalol
   gtt.
   - Repeat EKG
   - Monitor on telemetry
   - Trend cardiac enzymes till peaks
   - ASA 325 PO daily
   - Hold off on heparin gtt/ Plavix unless enzymes rise in setting of
   symptomatic ekg changes
   - Resume Metoprolol and Lisinopril
   - ECHO in am to evaluate baseline cardiac function
   - Consider stress vs. cath if clinical picture becomes more consistent
   with ACS
   - Risk stratification with A1C and lipid panel
   .
   # Hypertensive emergency:  Unclear precipitant. Pt does have hx of
   sensitivity to missing anti-hypertensive meds. Currently on labetalol
   gtt. Denies recent headaches, visual changes, decreased UOP, or other
   signs of end organ damage.
   - Continue Labetalol gtt to maintain goal BP 140-160, wean as tolerated
   while transitioning to home meds
   - Resume home Metoprolol and Lisinopril
   - Check urinalysis for signs of ATN and monitor Cr
   .
   # DM2: serum glucose 372 on admission. Pt on insulin at home. Last
   HbA1c on [**11-4**] elevated at 11.6. Pt reports compliance with insulin,
   but did self-titrate down insulin last week. Followed by Dr. [**Last Name (STitle) 6055**] at
   [**Hospital 303**] Clinic.
   - Continue home Humalog 75/25
   - FS Qachs, HISS PRN
   - Consider resuming home Metformin if Cr stable in am
   - HbA1c pending
   - Consider touching base with [**Last Name (un) 303**] if bs remain uncontrolled on
   current regimen
   .
   # CKI: Cr on admission 1.3, appears to be at baseline (was 1.3 in
   [**11-4**], and has been higher in the past.) - Monitor daily Cr
   - Check u/a for signs of ATN given hypertensive urgency
   - Consider resuming home Metformin for DM2 if Cr stable in am
   .
   # Hyperlipidemia: Pt has reported hx of hyperlipidemia, but is not on a
   lipid-lowering medication at home, and unclear what baseline lipid
   status is.
   - Check lipid profile, consider adding low-dose statin+
   .
   # Anemia: crit currently 32.1, at baseline (~32-33). No active signs of
   bleeding.
   - Monitor daily crits
   - Fe studies pending
   - Transfusion goal >21 (or >25 if clinical picture evolves into ACS)
   .
   #. Pump: No prior hx of ECHO per pt or in OMR. JVP elevated, and CXR
   shows mild bilateral pleural effusions, consistent with mild heart
   failure.
   - ECHO in am to eval baseline cardiac function
   .
   #. Rhythm: NSR with HR In 60s.
   - Monitor on telemetry
   .
   #. FEN: cardiac/diabetic diet, replete lytes PRN, no IVF for now
   .
   #. Access:  PIV
   .
   #. PPx:  heparin SC, no PPI indicated, bowel regimen
   .
   #. Code:  presumed FULL
   .
   # Contact: [**Name (NI) 6056**] [**Name (NI) 6057**], daughter [**Telephone/Fax (1) 6058**]
   .
   #. Dispo:  pending improvement of hypertension, weaning off labetalol
   gtt..
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2181-2-25**] 11:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2181-02-27 07:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2181-2-26**] 12:17 PM
 ULTRASOUND - At [**2181-2-26**] 04:12 PM
   -seen by [**Last Name (un) 303**], recommended 20 units 75/25 tonight and 20 NPH in am
   (while NPO), then her home regimen is 42 (75/25)units qam, 20units qpm
   plus sliding scale
   -put out 1.6L for 20mg IV lasix once
   -hep drip dc
   -NPO for cath in am, getting precath hydration
   -echo:Mild symmetric left ventricular hypertrophy with mild hypokinesis
   of the mid to distal inferolateral wall. Diastolic dysfunction. Mild to
   moderate mitral regurgitation. Moderate pulmonary artery systolic
   hypertension.
   -foley inserted
   -got baseline LFTs, AST 91
   S: Denies CP, SOB, lightheadedness, palpitations. Had some cold sweats
   earlier this am with glucose 59.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2181-2-26**] 08:21 PM
   Dextrose 50% - [**2181-2-27**] 06:16 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-2-27**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.7
C (98
   HR: 48 (48 - 79) bpm
   BP: 137/51(72) {122/47(68) - 178/94(98)} mmHg
   RR: 16 (10 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 57 Inch
             Total In:
                                                                  1,225 mL
                                                                    144 mL
   PO:
                                                                    860 mL
             TF:
   IVF:
                                                                    365 mL
                                                                    119 mL
   Blood products:
   Total out:
                                                                  2,720 mL
                                                                    760 mL
   Urine:
                                                                  2,720 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,495 mL
                                                                   -616 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///30/
   Physical Examination
   Gen: WDWN middle aged female in NAD.
   Neck: Supple with no appreciable JVD.
   CV: Irreg rhythm, normal rate. No m/r/g.
   Chest: Resp were unlabored, no accessory muscle use. Crackles [**12-30**] way
   up bilat.
   Abd: NABS. Soft, NTND.
   Ext: WWP. 1+ LE edema.
   Labs / Radiology
   276 K/uL
   9.0 g/dL
   66 mg/dL
   1.5 mg/dL
   30 mEq/L
   4.0 mEq/L
   29 mg/dL
   100 mEq/L
   137 mEq/L
   26.9 %
   6.0 K/uL
        [image002.jpg]
                             [**2181-2-25**]  10:38 PM
                             [**2181-2-26**]  04:47 AM
                             [**2181-2-26**]  06:07 AM
                             [**2181-2-26**]  07:47 PM
                             [**2181-2-27**]  04:21 AM
   WBC
   5.9
   6.6
   6.0
   Hct
   26.7
   27.4
   26.9
   Plt
   261
   277
   276
   Cr
   1.4
   1.4
   1.6
   1.5
   TropT
   1.52
   1.45
   Glucose
   [**Telephone/Fax (3) 6077**]99
   66
   Other labs: PT / PTT / INR:12.5/23.1/1.1, CK / CKMB /
   Troponin-T:428/20/1.45, ALT / AST:29/91, Alk Phos / T Bili:135/0.4,
   Ca++:8.9 mg/dL, Mg++:2.2 mg/dL, PO4:4.0 mg/dL
   Catheterization this morning showed 3vd, no intervention.
   Assessment and Plan
   Patient is an 83 y/o F with HTN, DM2 on insulin, CKI, no prior CAD hx
   who presents with L shoulder pain and EKG changes in setting of
   hypertensive emergency now s/p cath with report of 3Vd. Final report
   not available.
   .
   #. CAD: Will obtain CT surgery consultation for full range of options.
   Stopping plavix.
   .
   # Hypertensive emergency:  Unclear precipitant, possibly from missing
   anti-hypertensive meds.
   - Cont home Metoprolol and Lisinopril
   - Renal U/S showed no stenosis
   - Start amlodipine 10mg, aiming to wean off of nitro gtt
   .
   # DM2: f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 303**] Recs. Cont regimen, sliding scale.
   .
   # CKI: Cr on admission 1.3, appears to be at baseline (was 1.3 in
   [**11-4**], and has been higher in the past.) - Monitor daily Cr
   - Check u/a for signs of ATN given hypertensive urgency
   - Consider resuming home Metformin for DM2 if Cr stable in am
   .
   # Hyperlipidemia: Pt has reported hx of hyperlipidemia, but is not on a
   lipid-lowering medication at home, and unclear what baseline lipid
   status is.
   - Check lipid profile, consider adding low-dose statin+
   .
   # Anemia: crit currently 32.1, at baseline (~32-33). No active signs of
   bleeding.
   - Monitor daily crits
   .
   #. Rhythm: NSR with HR In 60s.
   - Monitor on telemetry , possible wenkebach. Will follow on tele
   .
   #. FEN: cardiac/diabetic diet, replete lytes PRN, no IVF for now
   .
   #. Access:  PIV
   .
   #. PPx:  heparin SC, no PPI indicated, bowel regimen
   .
   #. Code:  presumed FULL
   .
   # Contact: [**Name (NI) 6056**] [**Name (NI) 6057**], daughter [**Telephone/Fax (1) 6058**]
   .
   #. Dispo:  pending improvement of hypertension, weaning off labetalol
   gtt..
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2181-2-25**] 11:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   as per ccu team
   Physical Examination
   as per ccu team
   Medical Decision Making
   Critically ill due to hypertensive emergency, acute diastolic
   congestive heart failure.
   Total time spent on patient care: 35 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) 20**] [**Name (NI) **], MD
   on:[**2181-3-2**] 09:36 ------

2181-02-27 07:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2181-2-26**] 12:17 PM
 ULTRASOUND - At [**2181-2-26**] 04:12 PM
   -seen by [**Last Name (un) 303**], recommended 20 units 75/25 tonight and 20 NPH in am
   (while NPO), then her home regimen is 42 (75/25)units qam, 20units qpm
   plus sliding scale
   -put out 1.6L for 20mg IV lasix once
   -hep drip dc
   -NPO for cath in am, getting precath hydration
   -echo:Mild symmetric left ventricular hypertrophy with mild hypokinesis
   of the mid to distal inferolateral wall. Diastolic dysfunction. Mild to
   moderate mitral regurgitation. Moderate pulmonary artery systolic
   hypertension.
   -foley inserted
   -got baseline LFTs, AST 91
   S: Denies CP, SOB, lightheadedness, palpitations. Had some cold sweats
   earlier this am with glucose 59.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2181-2-26**] 08:21 PM
   Dextrose 50% - [**2181-2-27**] 06:16 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-2-27**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.7
C (98
   HR: 48 (48 - 79) bpm
   BP: 137/51(72) {122/47(68) - 178/94(98)} mmHg
   RR: 16 (10 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 57 Inch
             Total In:
                                                                  1,225 mL
                                                                    144 mL
   PO:
                                                                    860 mL
             TF:
   IVF:
                                                                    365 mL
                                                                    119 mL
   Blood products:
   Total out:
                                                                  2,720 mL
                                                                    760 mL
   Urine:
                                                                  2,720 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,495 mL
                                                                   -616 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///30/
   Physical Examination
   Gen: WDWN middle aged female in NAD.
   Neck: Supple with no appreciable JVD.
   CV: Irreg rhythm, normal rate. No m/r/g.
   Chest: Resp were unlabored, no accessory muscle use. Crackles [**12-30**] way
   up bilat.
   Abd: NABS. Soft, NTND.
   Ext: WWP. 1+ LE edema.
   Labs / Radiology
   276 K/uL
   9.0 g/dL
   66 mg/dL
   1.5 mg/dL
   30 mEq/L
   4.0 mEq/L
   29 mg/dL
   100 mEq/L
   137 mEq/L
   26.9 %
   6.0 K/uL
        [image002.jpg]
                             [**2181-2-25**]  10:38 PM
                             [**2181-2-26**]  04:47 AM
                             [**2181-2-26**]  06:07 AM
                             [**2181-2-26**]  07:47 PM
                             [**2181-2-27**]  04:21 AM
   WBC
   5.9
   6.6
   6.0
   Hct
   26.7
   27.4
   26.9
   Plt
   261
   277
   276
   Cr
   1.4
   1.4
   1.6
   1.5
   TropT
   1.52
   1.45
   Glucose
   [**Telephone/Fax (3) 6077**]99
   66
   Other labs: PT / PTT / INR:12.5/23.1/1.1, CK / CKMB /
   Troponin-T:428/20/1.45, ALT / AST:29/91, Alk Phos / T Bili:135/0.4,
   Ca++:8.9 mg/dL, Mg++:2.2 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   Patient is an 83 y/o F with HTN, DM2 on insulin, CKI, no prior CAD hx
   who presents with L shoulder pain and EKG changes in setting of
   hypertensive emergency now s/p cath with report of 3Vd. Final report
   not available.
   .
   #. CAD: Pt presenting with EKG changes and troponin leak in setting of
   hypertensive emergency with L shoulder pain, concern for ischemic
   etiology but most likely [**1-29**] demand in setting of hypertension. Chest
   pain resolved. Repeat EKG showed decreased ST deviations with
   resolution of CP. Pt now s/p cardiac cath with 3VD
   - f/u final report Cardiac cath this AM
   - Monitor on telemetry
   - Cont ASA 325 PO daily, clopidogrel
   - Cont Metoprolol and Lisinopril
   - f/[**Initials (NamePattern4) **] [**Doctor First Name 213**] recs
   .
   # Hypertensive emergency:  Unclear precipitant, possibly from missing
   anti-hypertensive meds. BP now improved s/p labetalol gtt. Improved
   - Cont home Metoprolol and Lisinopril
   - Check urinalysis for signs of ATN and monitor Cr
   - continue nitro gtt
   - renal arteries without stenosis on cath
   - consider renal ultrasound
   .
   # DM2: serum glucose 372 on admission. Pt on insulin at home. Last
   HbA1c on [**11-4**] elevated at 11.6. Pt reports compliance with insulin,
   but did self-titrate down insulin last week. Followed by Dr. [**Last Name (STitle) 6055**] at
   [**Hospital 303**] Clinic.
   - Continue home Humalog 75/25
   - FS Qachs, HISS PRN
   - Consider resuming home Metformin if Cr stable in am
   - HbA1c pending
   - Consider touching base with [**Last Name (un) 303**] if bs remain uncontrolled on
   current regimen
   .
   # CKI: Cr on admission 1.3, appears to be at baseline (was 1.3 in
   [**11-4**], and has been higher in the past.) - Monitor daily Cr
   - Check u/a for signs of ATN given hypertensive urgency
   - Consider resuming home Metformin for DM2 if Cr stable in am
   .
   # Hyperlipidemia: Pt has reported hx of hyperlipidemia, but is not on a
   lipid-lowering medication at home, and unclear what baseline lipid
   status is.
   - Check lipid profile, consider adding low-dose statin+
   .
   # Anemia: crit currently 32.1, at baseline (~32-33). No active signs of
   bleeding.
   - Monitor daily crits
   - Fe studies pending
   - Transfusion goal >21 (or >25 if clinical picture evolves into ACS)
   .
   #. Pump: No prior hx of ECHO per pt or in OMR. JVP elevated, and CXR
   shows mild bilateral pleural effusions, consistent with mild heart
   failure.
   - ECHO in am to eval baseline cardiac function
   .
   #. Rhythm: NSR with HR In 60s.
   - Monitor on telemetry
   .
   #. FEN: cardiac/diabetic diet, replete lytes PRN, no IVF for now
   .
   #. Access:  PIV
   .
   #. PPx:  heparin SC, no PPI indicated, bowel regimen
   .
   #. Code:  presumed FULL
   .
   # Contact: [**Name (NI) 6056**] [**Name (NI) 6057**], daughter [**Telephone/Fax (1) 6058**]
   .
   #. Dispo:  pending improvement of hypertension, weaning off labetalol
   gtt..
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2181-2-25**] 11:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2181-02-27 07:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2181-2-26**] 12:17 PM
 ULTRASOUND - At [**2181-2-26**] 04:12 PM
   -seen by [**Last Name (un) 303**], recommended 20 units 75/25 tonight and 20 NPH in am
   (while NPO), then her home regimen is 42 (75/25)units qam, 20units qpm
   plus sliding scale
   -put out 1.6L for 20mg IV lasix once
   -hep drip dc
   -NPO for cath in am, getting precath hydration
   -echo:Mild symmetric left ventricular hypertrophy with mild hypokinesis
   of the mid to distal inferolateral wall. Diastolic dysfunction. Mild to
   moderate mitral regurgitation. Moderate pulmonary artery systolic
   hypertension.
   -foley inserted
   -got baseline LFTs, AST 91
   S: Denies CP, SOB, lightheadedness, palpitations. Had some cold sweats
   earlier this am with glucose 59.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2181-2-26**] 08:21 PM
   Dextrose 50% - [**2181-2-27**] 06:16 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-2-27**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.7
C (98
   HR: 48 (48 - 79) bpm
   BP: 137/51(72) {122/47(68) - 178/94(98)} mmHg
   RR: 16 (10 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 57 Inch
             Total In:
                                                                  1,225 mL
                                                                    144 mL
   PO:
                                                                    860 mL
             TF:
   IVF:
                                                                    365 mL
                                                                    119 mL
   Blood products:
   Total out:
                                                                  2,720 mL
                                                                    760 mL
   Urine:
                                                                  2,720 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,495 mL
                                                                   -616 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///30/
   Physical Examination
   Gen: WDWN middle aged female in NAD.
   Neck: Supple with no appreciable JVD.
   CV: Irreg rhythm, normal rate. No m/r/g.
   Chest: Resp were unlabored, no accessory muscle use. Crackles [**12-30**] way
   up bilat.
   Abd: NABS. Soft, NTND.
   Ext: WWP. 1+ LE edema.
   Labs / Radiology
   276 K/uL
   9.0 g/dL
   66 mg/dL
   1.5 mg/dL
   30 mEq/L
   4.0 mEq/L
   29 mg/dL
   100 mEq/L
   137 mEq/L
   26.9 %
   6.0 K/uL
        [image002.jpg]
                             [**2181-2-25**]  10:38 PM
                             [**2181-2-26**]  04:47 AM
                             [**2181-2-26**]  06:07 AM
                             [**2181-2-26**]  07:47 PM
                             [**2181-2-27**]  04:21 AM
   WBC
   5.9
   6.6
   6.0
   Hct
   26.7
   27.4
   26.9
   Plt
   261
   277
   276
   Cr
   1.4
   1.4
   1.6
   1.5
   TropT
   1.52
   1.45
   Glucose
   [**Telephone/Fax (3) 6077**]99
   66
   Other labs: PT / PTT / INR:12.5/23.1/1.1, CK / CKMB /
   Troponin-T:428/20/1.45, ALT / AST:29/91, Alk Phos / T Bili:135/0.4,
   Ca++:8.9 mg/dL, Mg++:2.2 mg/dL, PO4:4.0 mg/dL
   Catheterization this morning showed 3vd, no intervention.
   Assessment and Plan
   Patient is an 83 y/o F with HTN, DM2 on insulin, CKI, no prior CAD hx
   who presents with L shoulder pain and EKG changes in setting of
   hypertensive emergency now s/p cath with report of 3Vd. Final report
   not available.
   .
   #. CAD: Will obtain CT surgery consultation for full range of options.
   Stopping plavix.
   .
   # Hypertensive emergency:  Unclear precipitant, possibly from missing
   anti-hypertensive meds.
   - Cont home Metoprolol and Lisinopril
   - Renal U/S showed no stenosis
   - Start amlodipine 10mg, aiming to wean off of nitro gtt
   .
   # DM2: f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 303**] Recs. Cont regimen, sliding scale.
   .
   # CKI: Cr on admission 1.3, appears to be at baseline (was 1.3 in
   [**11-4**], and has been higher in the past.) - Monitor daily Cr
   - Check u/a for signs of ATN given hypertensive urgency
   - Consider resuming home Metformin for DM2 if Cr stable in am
   .
   # Hyperlipidemia: Pt has reported hx of hyperlipidemia, but is not on a
   lipid-lowering medication at home, and unclear what baseline lipid
   status is.
   - Check lipid profile, consider adding low-dose statin+
   .
   # Anemia: crit currently 32.1, at baseline (~32-33). No active signs of
   bleeding.
   - Monitor daily crits
   .
   #. Rhythm: NSR with HR In 60s.
   - Monitor on telemetry , possible wenkebach. Will follow on tele
   .
   #. FEN: cardiac/diabetic diet, replete lytes PRN, no IVF for now
   .
   #. Access:  PIV
   .
   #. PPx:  heparin SC, no PPI indicated, bowel regimen
   .
   #. Code:  presumed FULL
   .
   # Contact: [**Name (NI) 6056**] [**Name (NI) 6057**], daughter [**Telephone/Fax (1) 6058**]
   .
   #. Dispo:  pending improvement of hypertension, weaning off labetalol
   gtt..
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2181-2-25**] 11:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2181-02-27 07:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2181-2-26**] 12:17 PM
 ULTRASOUND - At [**2181-2-26**] 04:12 PM
   -seen by [**Last Name (un) 303**], recommended 20 units 75/25 tonight and 20 NPH in am
   (while NPO), then her home regimen is 42 (75/25)units qam, 20units qpm
   plus sliding scale
   -put out 1.6L for 20mg IV lasix once
   -hep drip dc
   -NPO for cath in am, getting precath hydration
   -echo:Mild symmetric left ventricular hypertrophy with mild hypokinesis
   of the mid to distal inferolateral wall. Diastolic dysfunction. Mild to
   moderate mitral regurgitation. Moderate pulmonary artery systolic
   hypertension.
   -foley inserted
   -got baseline LFTs, AST 91
   S: Denies CP, SOB, lightheadedness, palpitations. Had some cold sweats
   earlier this am with glucose 59.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2181-2-26**] 08:21 PM
   Dextrose 50% - [**2181-2-27**] 06:16 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-2-27**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.7
C (98
   HR: 48 (48 - 79) bpm
   BP: 137/51(72) {122/47(68) - 178/94(98)} mmHg
   RR: 16 (10 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 57 Inch
             Total In:
                                                                  1,225 mL
                                                                    144 mL
   PO:
                                                                    860 mL
             TF:
   IVF:
                                                                    365 mL
                                                                    119 mL
   Blood products:
   Total out:
                                                                  2,720 mL
                                                                    760 mL
   Urine:
                                                                  2,720 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,495 mL
                                                                   -616 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///30/
   Physical Examination
   Gen: WDWN middle aged female in NAD.
   Neck: Supple with no appreciable JVD.
   CV: Irreg rhythm, normal rate. No m/r/g.
   Chest: Resp were unlabored, no accessory muscle use. Crackles [**12-30**] way
   up bilat.
   Abd: NABS. Soft, NTND.
   Ext: WWP. 1+ LE edema.
   Labs / Radiology
   276 K/uL
   9.0 g/dL
   66 mg/dL
   1.5 mg/dL
   30 mEq/L
   4.0 mEq/L
   29 mg/dL
   100 mEq/L
   137 mEq/L
   26.9 %
   6.0 K/uL
        [image002.jpg]
                             [**2181-2-25**]  10:38 PM
                             [**2181-2-26**]  04:47 AM
                             [**2181-2-26**]  06:07 AM
                             [**2181-2-26**]  07:47 PM
                             [**2181-2-27**]  04:21 AM
   WBC
   5.9
   6.6
   6.0
   Hct
   26.7
   27.4
   26.9
   Plt
   261
   277
   276
   Cr
   1.4
   1.4
   1.6
   1.5
   TropT
   1.52
   1.45
   Glucose
   [**Telephone/Fax (3) 6077**]99
   66
   Other labs: PT / PTT / INR:12.5/23.1/1.1, CK / CKMB /
   Troponin-T:428/20/1.45, ALT / AST:29/91, Alk Phos / T Bili:135/0.4,
   Ca++:8.9 mg/dL, Mg++:2.2 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   Patient is an 83 y/o F with HTN, DM2 on insulin, CKI, no prior CAD hx
   who presents with L shoulder pain and EKG changes in setting of
   hypertensive emergency now s/p cath with report of 3Vd. Final report
   not available.
   .
   #. CAD: Pt presenting with EKG changes and troponin leak in setting of
   hypertensive emergency with L shoulder pain, concern for ischemic
   etiology but most likely [**1-29**] demand in setting of hypertension. Chest
   pain resolved. Repeat EKG showed decreased ST deviations with
   resolution of CP. Pt now s/p cardiac cath with 3VD
   - Cardiac cath this AM
   - Monitor on telemetry
   - Cont ASA 325 PO daily, clopidogrel
   - Cont Metoprolol and Lisinopril
   - f/[**Initials (NamePattern4) **] [**Doctor First Name 213**] recs
   .
   # Hypertensive emergency:  Unclear precipitant, possibly from missing
   anti-hypertensive meds. BP now improved s/p labetalol gtt.
   - Cont home Metoprolol and Lisinopril
   - Check urinalysis for signs of ATN and monitor Cr
   - continue nitro gtt
   .
   # DM2: serum glucose 372 on admission. Pt on insulin at home. Last
   HbA1c on [**11-4**] elevated at 11.6. Pt reports compliance with insulin,
   but did self-titrate down insulin last week. Followed by Dr. [**Last Name (STitle) 6055**] at
   [**Hospital 303**] Clinic.
   - Continue home Humalog 75/25
   - FS Qachs, HISS PRN
   - Consider resuming home Metformin if Cr stable in am
   - HbA1c pending
   - Consider touching base with [**Last Name (un) 303**] if bs remain uncontrolled on
   current regimen
   .
   # CKI: Cr on admission 1.3, appears to be at baseline (was 1.3 in
   [**11-4**], and has been higher in the past.) - Monitor daily Cr
   - Check u/a for signs of ATN given hypertensive urgency
   - Consider resuming home Metformin for DM2 if Cr stable in am
   .
   # Hyperlipidemia: Pt has reported hx of hyperlipidemia, but is not on a
   lipid-lowering medication at home, and unclear what baseline lipid
   status is.
   - Check lipid profile, consider adding low-dose statin+
   .
   # Anemia: crit currently 32.1, at baseline (~32-33). No active signs of
   bleeding.
   - Monitor daily crits
   - Fe studies pending
   - Transfusion goal >21 (or >25 if clinical picture evolves into ACS)
   .
   #. Pump: No prior hx of ECHO per pt or in OMR. JVP elevated, and CXR
   shows mild bilateral pleural effusions, consistent with mild heart
   failure.
   - ECHO in am to eval baseline cardiac function
   .
   #. Rhythm: NSR with HR In 60s.
   - Monitor on telemetry
   .
   #. FEN: cardiac/diabetic diet, replete lytes PRN, no IVF for now
   .
   #. Access:  PIV
   .
   #. PPx:  heparin SC, no PPI indicated, bowel regimen
   .
   #. Code:  presumed FULL
   .
   # Contact: [**Name (NI) 6056**] [**Name (NI) 6057**], daughter [**Telephone/Fax (1) 6058**]
   .
   #. Dispo:  pending improvement of hypertension, weaning off labetalol
   gtt..
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2181-2-25**] 11:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: